US08871753B2
Step B: tert-Butyl (3-{[(3-aminophenyl)sulfonyl]amino}phenyl)carbamate
To a solution tert-butyl (3-{[(3-nitrophenyl)sulfonyl]amino}phenyl)carbamate (0.51 g, 0.0013 mol) in water (1 mL), methanol (5 mL) and acetic acid (2 mL) was added iron (290 mg, 5.2 mmol) powder in one batch. The mixture was stirred at 0° C. for 0.5 h. The reaction mixture was mixed with celite, filtered, and the cake was washed with EtOAc. The brown filtrate was concentrated, followed by the addition of EtOAc and NaHCO3/water. The aqueous phase was extracted with EtOAc. The organics were combined, dried over Na2SO4 and concentrated to give the desired product as a yellow powder (0.46 g, 98%). LCMS for C17H21N3O4S (M-tBu+H)+: m/z=308.0. 1H NMR (400 MHz, DMSO-d6): δ 10.02 (s, 1H), 9.31 (s, 1H), 7.33 (br, 1H), 7.10 (t, J=8.0 Hz, 1H), 7.02 (m, 1H), 6.93 (t, J=2.0 Hz, 1H), 6.85 (ddd, J=7.6, 1.8, 1.0 Hz, 1H), 6.67 (m, 1H), 5.53 (s, 1H), 1.43 (s, 9H).

reactant | tert-butyl (3-{[(3-nitrophenyl)sulfonyl]amino}phenyl)carbamate | 0.0013 mol, 0.51 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C17H19N3O6S
solvent | water | 1 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 5.2 mmol, 290 mg | [Fe] | Fe
product | tert-Butyl (3-{[(3-aminophenyl)sulfonyl]amino}phenyl)carbamate | 0.46 g, 98% | NC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C17H21N3O4S
